Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Cipro / doxycycline / Tamiflu
 
Attending: ___.
 
Chief Complaint:
rectal pain, collection near incision
 
Major Surgical or Invasive Procedure:
no surgical intervention was done.

 
History of Present Illness:
___ with ulcerative colitis and no abdominal operations. Was
admitted ___ to ___ with obstructive symptoms and
found to have an incarcerated left inguinal hernia; was taken to
the OR for repair, which was done with mesh, and she was
discharged ___. She represented to ___ ___ with
rectal pain for ___ days, blood per rectum that she attributes 
to
hemorrhoids, urinary frequency (no hematuria/dysuria). Also 
noted
a harder area under her incision. She was transferred to ___
___. She denies fevers, chills, night sweats, N/V, abdominal
pain. Had a normal BM in the ED and prior to this had had brown
stream of liquid intermittently. 

 
Past Medical History:
PMHx: ulcerative colitis, hypothyroidism, HLD, basal cell CA,
corneal degeneration, ?bladder cancer s/p endoscopic removal,
breast cancer
PSHx: incarcerated inguinal hernia repair with mesh ___ (Dr
___ b/l mastectomy, tonsillectomy, corneal
transplants

 
Social History:
___
Family History:
FH: NC

 
Physical Exam:
Physical exam
VS: 98.5, 78, 143/68, 14, 98% RA
Gen: NAD
CV: RRR, no MRG
Pulm: CTA b/l
Abd: soft, nondistended, nontender. 
Groin: L groin incision c/d/i; area underneath incision is hard,
slightly erythematous, and tender to palpation; no fluctuance,
induration, or crepitus
Rectal: attempted but patient could not tolerate - had excessive
pain when finger inserted slightly; external hemorrhoids present
on visual inspection
Ext: mild b/l pitting edema

 
Brief Hospital Course:
 She was transferred to ___ ___  with rectal pain and rectal 
pain, blood
per rectum, and swelling below groin site
He was seen and evaluated by surgical team and was admitted to 
___ surgical service.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with PO pain medications. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was  on regular diet and tolerated it 
well without nausea and vomiting. Patient's intake and output 
were closely monitored.  
ID: The patient's fever curves were closely watched for signs of 
infection. She started on cipro/flagyl ti be continued for 
additional 7 days after discharge.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. 
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating regular 
diet, ambulating, voiding without assistance. Her rectal pain 
was resolved.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine 800 mg PO BID 
2. Mercaptopurine 75 mg PO ONCE 
3. Fluorometholone 0.1% Ophth Susp. 1 DROP BOTH EYES DAILY 
4. polysorbate 80 unknown  miscellaneous unknown 
5. Sodium Chloride 5 % PO BID 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. Levofloxacin 750 mg PO Q48H Duration: 7 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Q48H Disp #*4 
Tablet Refills:*0
2. MetRONIDAZOLE (FLagyl) 500 mg PO TID Duration: 7 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*21 Tablet Refills:*0
3. Fluorometholone 0.1% Ophth Susp. 1 DROP BOTH EYES DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Mercaptopurine 75 mg PO ONCE 
7. Mesalamine 800 mg PO BID 
8. Sodium Chloride 5 % PO BID 
9. polysorbate 80 0 unknown MISCELLANEOUS Frequency is Unknown 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
perirectal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1.Take pain medication as needed based on the amount of pain you 
are experiencing. Expect to be very sore for the first ___ days 
following that pain and soreness subsides with time. 
2.General care: Sitting in a warm tub of water ___ bath) a 
minimum of 2, preferably ___ times a day helps with controlling 
pain and keeping the area clean. You can use hand held shower 
head instead of ___ bath if you prefer. Kindly pat the area 
dry after ___ bath/shower, or use a hair dryer on cold to dry 
perianal area. Using an icepack for 10 minutes over/outside your 
undergarments every 2 hours over first 2 days helps keep pain & 
swelling down. 
3.Diet & Bowel function: Continue with a regular diet, focusing 
on a diet high in fiber and plenty of fluids like you did prior 
to surgery. Continue with supplements of Konsyl, Metamucil, 
Benefiber, or Citrucel and plenty of fluid to avoid 
constipation. The trick is to avoid constipation, as this will 
allow you to pass stool with the least discomfort while you are 
healing and recovering. Kindly use additional medication as 
prescribed to facilitate moving your bowels. Stop use of stool 
softners or cathartics if you are having diarrhea. If you do not 
have a bowel movement in 2 days use 1oz of milk of magnesia, 
this can be repeated after 6 hours if you have no results. If no 
results are seen till next day use 4oz of magnesium citrate. 
4.Please call immediately if you have:
A.Persistent pain which is worsening over next ___
B.A fever higher than 101 degrees.
C.Difficulty emptying your bladder
D.Bleeding which is not stopping 
5. Return to work: Expect to take a minimum of 1 week off from 
work. Most patients take about 2 weeks off from work. If you are 
extremely motivated and have high pain tolerance you may be able 
to go back to work sooner. 
10. Follow up visit: You will be seen about 4 weeks after 
surgery and sooner if necessary. 

 
Followup Instructions:
___